US04925838
To a solution of (2S,4S)-2-[(2S)-2-(hydroxymethyl)pyrrolidin-1-yl]methyl-1-(4-nitrobenzyloxycarbonyl)-4-(triphenylmethylthio)pyrrolidine (5.74 g) in trifluoroacetic acid (30 ml) was added 2-mercaptoethanol (0.95 ml) under ice-cooling and the mixture was stirred at ambient temperature for 15 minutes. The reaction mixture was evaporated in vacuo. The resulting residue was dissolved in toluene (30 ml) and the solution was evaporated in vacuo to give a residue. The residue was dissolved in ethyl acetate (100 ml) and the solution was washed in turn with saturated aqueous sodium hydrogen carbonate and aqueous sodium chloride, dried over magnesium sulfate and evaporated in vacuo. The resulting residue was chromatographed on silica gel (100 g) eluting with a mixture of chloroform and methanol (9:l,V/V). The fractions containing the desired compound were collected and evaporated in vacuo to give (2S,4S)-2-[(2S)-2-(hydroxymethyl)pyrrolidin-1-yl]methyl-4-mercapto-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (1.77 g).

reactant | (2S,4S)-2-[(2S)-2-(hydroxymethyl)pyrrolidin-1-yl]methyl-1-(4-nitrobenzyloxycarbonyl)-4-(triphenylmethylthio)pyrrolidine | 5.74 g | OC[C@H]1N(CCC1)C[C@H]1N(C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C37H39N3O5S
reactant | 2-mercaptoethanol | 0.95 ml | SCCO | C2H6OS
solvent | trifluoroacetic acid | 30 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | (2S,4S)-2-[(2S)-2-(hydroxymethyl)pyrrolidin-1-yl]methyl-4-mercapto-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 1.77 g | OC[C@H]1N(CCC1)C[C@H]1N(C[C@H](C1)S)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C18H25N3O5S
